* Installed MIM model charge probe, not combined-circuit evidence.
.param mc_mm_switch=0 mc_pr_switch=0
.include "/home/mehtama1/eda-tools/pdks/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice"
.include "/home/mehtama1/eda-tools/pdks/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice"
.include "/home/mehtama1/eda-tools/pdks/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__cap_mim_m3_1.model.spice"
.include "/home/mehtama1/git-repo/ai-hardware-analysis/analog-digital-chip-design-eda/evidence/aimc-simulator-adapters/capture-charge-cap-model/20260906T223737230930Z/cell.spice"
.temp 25
.options reltol=1e-6 abstol=1e-16 method=gear
VIN top 0 PWL(0n 0 1n 0 2n 1 4n 1)
XCAP top 0 capture_charge_cap
.tran 1p 4n 0 1p
.measure tran final_v FIND v(top) AT=4n
.control
run
write waveform.raw v(top) i(vin)
.endc
.end
